US07781479B2
{2-[(4-Methylphenyl)ethynyl]phenyl}amine
To 2-iodoaniline (2.19 g, 10.0 mmol) in diethylamine (40 ml) were added 4-ethynyltoluene (1.16 g, 10.0 mmol), bis(triphenylphosphine) palladium(II) chloride (702 mg, 1.00 mmol) and copper iodide (190 mg, 1.00 mmol) successively, and the mixture was stirred for 6 hours at 50° C. After adding water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography to give the subject compound (1.80 g, 87%).

reactant | 2-iodoaniline | 10.0 mmol, 2.19 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 4-ethynyltoluene | 10.0 mmol, 1.16 g | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | water | O | H2O
solvent | diethylamine | 40 ml | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine) palladium(II) chloride | 1.00 mmol, 702 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper iodide | 1.00 mmol, 190 mg | [Cu](I)I
product | {2-[(4-Methylphenyl)ethynyl]phenyl}amine | 1.80 g, 87% | CC1=CC=C(C=C1)C#CC1=C(C=CC=C1)N | C15H13N
